Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Levaquin
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ year old woman with history of advanced
___, advanced dementia, bilateral blindness, reactive
airway disease on chronic prednisone, HTN, HLD, COPD,
hypothyroidism, and recent admission for MRSA and pseudomonas
PNA, which resulted in trach/peg, now with vent dependence, who
now presents from her rehab (___) with fevers despite 
multiple
courses of antibiotics.

Since her last discharge for MRSA and pseudomonas (with 
inducible
resistance to cefepime and ceftaz) PNA, she has been on
antibiotics for resistant organisms for all but ~5 days. She has
been followed by ID while at ___, and while there, was
on vanc/cipro -> bactrim/meropenem (for stenotrophomonas and
pseudomonas) -> vancomycin/ceftaz-avibactam. She was scheduled 
to
continue Vancomycin and ceftaz/avibactam until ___ but
continued to spike fevers as high as ___, so she was sent to
___ for further evaluation per the son's request. Patient is
non-verbal and unable to provide meaningful history or ROS. She
is confirmed full code.

Of note, according to a progress note from ___ on ___
the son has been verbally abusive and yelling at staff 
requesting
that "full investigation of all patient's current medical
problems and maximal support." 

In the ED, 

Initial Vitals: T 99.7, HR 96, BP 176/86, RR 20 on vent.

Exam: Chronically ill appearing, frail, appears uncomfortable.
Trach midline, no surrounding erythema or drainage. Diminished
breath sounds, no wheezing or crackles. R>L upper extremity
edema.

Labs were remarkable for:
- Hgb 7.3 (recent baseline 7.5-8.5, did recently require 2u PRBC
while at ___
- WBC 12.2 (84% PMN)
- Pro-BNP 1170
- Vanc 28.5 (though collected before a true trough)
- Bland UA
- Lactate 1.1

Imaging:  
- NCHCT: extremely limited by motion, but no acute intracranial
process
- CXR: mild pulmonary edema with perihilar hazy opacities and
trace R pleural effusion, patchy opacities in lung bases could
reflect atelectasis, though early infection in the left lung 
base
is not excluded. Left PICC tip terminates in the left mid
subclavian vein
- CT Chest: small bilateral pleural effusions (R>L) on wet read
- CT A/P: no acute pathology on wet read
- RUE ___: Nonocclusive thrombi are present in the right
brachial and basilic veins. Occlusive thrombus in the right
cephalic vein. However, the right internal jugular, axillary, 
and
brachial veins appear patent, showing normal color flow and
spectral doppler. The right basilic vein is narrowed but patent.

The ED team reached out to ID, who recommended continuing
antibiotics without escalation pending culture data and imaging.

She received:
- IV LR @ 75cc/hr
- PO Alprazolam 0.5mg
- Omeprazole 40mg PO
- Pravastatin 80mg PO
- Carbidopa-Levodopa
- Hyoscyamine 0.125mg
- Olanzapine 2.5mg

VS Prior to Transfer: T 98.9, HR 87, BP 132/85, spO2 97% on 
vent.

Upon arrival to the floor, the patient was nonverbal and not 
able
to participate in interview. Her son at bedside confirmed the
above story, and beyond the fevers and apparent discomfort 
denied
any other acute changes of his mother. ___, he reports that
at his rehab facility, his mother was "speaking with a passy 
muir
valve".

ROS: Positives as per HPI; otherwise negative.  
====
 
Past Medical History:
Per OMR:
 ___ Disease  
 HTN  
 HLD  
 Esophageal dysmotility  
 Bilateral blindness  
 Reactive airway disease  
 COPD, bronchiectasis  
 Hypothyroidism  
 Recurrent Aspiration s/p PEG placement 
 
Social History:
___
Family History:
Per OMR
Sons with heart disease

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
VS: Reviewed in Metavision
GEN: Frail elderly woman lying in bed, not interactive, not
tracking eye movements. Appears uncomfortable.
HEENT: Sclera anicteric. PERRL. MMM.
NECK:  Kyphosis present. Trach C/D/I.
CV:  RRR. Mildly tachycardia. ___ systolic murmur heard
throughout precordium.
RESP: Few scattered rhonchi, otherwise with good air exchange, 
no
wheezes or rales.
GI:  Soft, nondistended. No hepatosplenomegaly.
EXT: WWP. Visible superficial veins. No ___ edema. + RUE pitting
edema.
SKIN: No visible ecchymoses or other rashes.
NEURO: Non verbal, not responsive to verbal commands. Groans to
sternal rub

DISCHARGE PHYSICAL EXAM:
========================
VS: BP 103/79, HR 85, spO2 100% on vent
GEN: Frail elderly woman lying in bed, not interactive, not
tracking eye movements. Appears comfortable.
HEENT: Sclera anicteric. PERRL. MMM.
NECK:  Kyphosis present. Trach C/D/I.
CV:  RRR. Mildly tachycardia. ___ systolic murmur.
RESP: Few scattered rhonchi, otherwise with good air exchange, 
no
wheezes or rales.
GI:  Soft, nondistended. No hepatosplenomegaly.
EXT: WWP. Visible superficial veins. No ___ edema. + RUE pitting
edema. Erythema around LUE PICC site.
SKIN: No visible ecchymoses or other rashes other than above.
NEURO: Non verbal, not responsive to verbal commands. 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 04:14PM BLOOD WBC-12.2* RBC-2.41* Hgb-7.3* Hct-23.6* 
MCV-98 MCH-30.3 MCHC-30.9* RDW-14.3 RDWSD-51.5* Plt ___
___ 05:20AM BLOOD ___ PTT-28.2 ___
___ 04:14PM BLOOD Glucose-115* UreaN-13 Creat-0.3* Na-136 
K-4.6 Cl-98 HCO3-28 AnGap-10
___ 04:14PM BLOOD ALT-<5 AST-25 AlkPhos-201* TotBili-0.6
___ 04:14PM BLOOD proBNP-1170*
___ 04:14PM BLOOD Albumin-3.6 Calcium-8.9 Phos-3.4 Mg-2.3
___ 05:20AM BLOOD calTIBC-187* Hapto-205* Ferritn-833* 
TRF-144*
___ 04:32PM BLOOD Lactate-1.1

DISCHARGE LABS:
===============
___ 03:41AM BLOOD WBC-6.8 RBC-2.53* Hgb-7.5* Hct-24.7* 
MCV-98 MCH-29.6 MCHC-30.4* RDW-15.6* RDWSD-55.4* Plt ___
___ 03:41AM BLOOD Glucose-104* UreaN-12 Creat-0.3* Na-141 
K-4.0 Cl-103 HCO3-28 AnGap-10
___ 03:41AM BLOOD ALT-13 AST-13 AlkPhos-176*
___ 03:41AM BLOOD Calcium-8.4 Phos-3.3 Mg-2.2

MICROBIOLOGY:
=============
   GRAM STAIN (Final ___: 
      ___ PMNs and <10 epithelial cells/100X field. 
      1+    (<1 per 1000X FIELD):   BUDDING YEAST WITH 
PSEUDOHYPHAE. 

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

   ___ Blood Culture, Routine (Pending):    No growth to 
date. 

RADIOLOGY:
==========
+CT CHEST W/CONTRAST ___
Limited study due to motion artifact.  Within this limitation, 
-Small bilateral pleural effusions, greater on the right. 
-Otherwise, no acute findings in the torso. 

+CXR: ___ 
1. Findings suggestive of mild pulmonary edema with perihilar 
hazy opacities 
and trace right pleural effusion. 
2. Patchy opacities in lung bases could reflect atelectasis, 
though early 
infection in the left lung base is not excluded. 
3. Left PICC tip terminates in the left mid subclavian vein. 

+CT HEAD ___
IMPRESSION:  
Extremely limited study due to motion artifact despite repeat 
acquisitions.  
Within this limitation, no visualized acute intracranial 
process, no 
significant mass effect. 

+UNILAT UP EXT VEINS RUE ___
IMPRESSION:    
Nonocclusive thrombi involving the right brachial and basilic 
veins. 
Occlusive thrombus in the right cephalic vein. 

+UNILAT UP EXT VEINS LUE ___  
Acute, partially occlusive deep venous thrombus about the PICC 
within the 
axillary (deep) and proximal basilic veins. 
 
Brief Hospital Course:
___ year old woman with history of advanced ___, 
bilateral blindness, reactive airway disease on chronic 
prednisone, HTN, HLD, COPD, hypothyroidism, and recent admission 
for MRSA and pseudomonas PNA, which resulted in trach/peg, now 
with vent dependence, who now presents from her rehab (___) 
with persistent fevers and leukocytosis despite broad spectrum 
ABX for PNA, found to have bilateral UE DVT. Fevers likely 
non-infectious, so antibiotics discontinued. Patient stable and 
discharged back to ___. 

ACUTE ISSUES 
=============== 
# Fevers
Patient presents from ___ with persistent fevers and 
mild leukocytosis despite broad spectrum coverage for her 
resistant PNAs. ID was consulted and felt that her culture data 
likely reflects colonization, given her non-inflammatory sputum 
studies, stable vent settings, and stable secretions. The most 
likely etiology of her fevers is non infectious such as drug 
fever or ___ DVT. Notably, she was found to
have RUE DVT of brachial, basilic, and cephalic veins of the 
RUE. She was also found to have LUE DVT of axillary veins (with 
PICC still in place). It is possible this could be contributing 
to her fevers. Less likely new or persistent bacterial 
infection, though viral infection could be considered. Flu neg. 

# Bilateral UE Catheter Associated DVT:
Patient presented with RUE edema, found to have RUE thrombi of 
the brachial (non-occlusive), cephalic (occlusive), and basilic 
(non-occlusive) veins. This occurred in the setting of RUE PICC 
placed in the R basilic vein last admission (subsequently 
removed). She was also found to have partially occlusive LUE 
thrombi within the axillary (deep) and proximal basilic veins, 
with PICC still in place due to necessity of frequent lab draws. 
After extensive conversation with the patient's son (HCP) re: 
risks and benefits of anticoagulation, it was ultimately decided 
to anticoagulate with warfarin, with lovneox bridge. She will 
need repeat ultrasounds to assess for clot resolution on 
anticoagulation, minimum planned duration 3 months. Will also 
need to monitor for e/o active bleeding.

# L UE Erythema
The patient was found to have L upper arm erythema in the 
setting of L UE DVT, with some excoriations of the skin. Given 
improvement with topical emollients and without antibiotics, 
this was thought to be excoriation in the setting of her chronic 
steroid use, and less likely an overlying cellulitis. This 
should continue to be monitored at ___.

# Chronic Hypoxic respiratory failure: 
The patient is trached and vent dependent in the setting of 
advanced dementia. Her Trach cuff pressures were within normal 
limits(28). She was continued on her outpatient ventilator 
settings of CMV overnight and PSV during day. Trach sputum 
cultures grew pseudomonas, but given low PMNs and scant sputum 
production with stable vent settings, suspect colonization as 
opposed to active infection.

# Normocytic Anemia
The patient has a recent baseline Hgb of 7.5-8.5, and has 
required 2u PRBC while at
___. Did have guaiac + stools there, though no evidence of 
overt bleeding. Could represent a slow GIB vs marrow suppression 
in the setting of recent infections. s/p 1UPRBC with robust 
response supporting that acute bleed is less likely. Iron 
studies suggest anemia of chronic inflammation.

CHRONIC ISSUES 
=============== 
# Esophageal dysmotility: s/p PEG: The patient was continued on 
nutrition's final tube feed recs from her last admission

# ___: Continued home carbidopa/levodopa regimen

# HLD: Continued home statin

# Chronic pain: Continued APAP. Home NSAIDs were held in the 
setting of anemia. 

# Reactive airway disease, copd: Continued home prednisone 10mg 
daily and home inhalers

TRANSITIONAL ISSUES:
====================
[]will need ___ weekly INR checks and CBCs to monitor blood 
counts on anticoagulation for catheter associated DVT of 
bilateral UE
--- Discharge Hgb 7.5

[]started warfarin for bilateral UE catheter associated DVT, 
planning to bridge with lovenox. Continue to assess risks and 
benefits of anticoagulation at ___.

[]L UE PICC was left in given anticipated need for serial lab 
draws with challenging venous access

[]Repeat bilateral UE U/S in 1 month (___) to evaluate RUE 
DVT and LUE DVT to determine needed duration of anticoagulation. 
Anticipated duration of anticoagulation is 3 months, but will 
potentially need longer given PICC left in place.

[]Avoid BP cuffs in UE iso DVT. The patient's son requests that 
all BPs be taken in the left leg just below the knee.

[]f/u blood cultures ___: No growth to date at time of 
discharge

[]holding home NSAIDS in the setting of anemia

[]for pain control, the patient's son prefers 1.25mg oxycodone 
PRN for pain. The patient did respond well to small (0.125mg) IV 
dilaudid boluses. Could consider supplementing with IV dilaudid 
PRN for pain control.

#Code Status: FC 
#Contact:
___ 
___: Son 
Phone number: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg NG Q6H 
2. Carbidopa-Levodopa (___) 2 TAB NG Q0700 
3. Carbidopa-Levodopa (___) 1.5 TAB NG Q 1000 
4. Carbidopa-Levodopa (___) 1.5 TAB NG Q1300 
5. Carbidopa-Levodopa (___) 2 TAB NG Q1600 
6. Ipratropium Bromide Neb 1 NEB IH Q6H 
7. Levalbuterol Neb 0.63 mg NEB Q6H 
8. Levothyroxine Sodium 25 mcg NG DAILY 
9. Lidocaine 5% Patch 1 PTCH TD QPM 
10. Artificial Tears 1 DROP BOTH EYES BID 
11. melatonin 3 mg oral QHS 
12. PredniSONE 10 mg NG DAILY 
This is the maintenance dose to follow the last tapered dose
13. formoterol fumarate 20 mcg/2 mL inhalation BID 
14. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
15. Pravastatin 80 mg PO QPM 
16. omeprazole magnesium 20 Mg oral BID 
17. Clotrimazole Cream 1 Appl TP BID 
18. Saccharomyces boulardii 250 mg oral BID 
19. Multivitamins W/minerals 1 TAB NG DAILY 
20. Milk of Magnesia 30 mL PO DAILY 
21. Polyethylene Glycol 17 g PO DAILY 
22. OxyCODONE (Immediate Release) 1.25 mg PO Q6H:PRN Pain - 
Moderate 

 
Discharge Medications:
1.  Enoxaparin Sodium 50 mg SC Q12H  
2.  ___  MD to order daily dose PO DAILY16  
3.  Acetaminophen 650 mg NG Q6H  
4.  Artificial Tears 1 DROP BOTH EYES BID  
5.  Carbidopa-Levodopa (___) 2 TAB NG Q0700  
6.  Carbidopa-Levodopa (___) 1.5 TAB PO Q 1000  
7.  Carbidopa-Levodopa (___) 1.5 TAB PO Q1300  
8.  Carbidopa-Levodopa (___) 2 TAB PO Q1600  
9.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID  
10.  Clotrimazole Cream 1 Appl TP BID  
11.  formoterol fumarate 20 mcg/2 mL inhalation BID  
12.  Ipratropium Bromide Neb 1 NEB IH Q6H  
13.  Levalbuterol Neb 0.63 mg NEB Q6H  
14.  Levothyroxine Sodium 25 mcg PO DAILY  
15.  Lidocaine 5% Patch 1 PTCH TD QPM  
16.  melatonin 3 mg oral QHS  
17.  Milk of Magnesia 30 mL PO DAILY  
18.  Multivitamins W/minerals 1 TAB NG DAILY  
19.  omeprazole magnesium 20 Mg oral BID  
20.  OxyCODONE (Immediate Release) 1.25 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 0.25 tablet(s) by mouth every six (6) hours 
Disp #*14 Tablet Refills:*0 
21.  Polyethylene Glycol 17 g PO DAILY  
22.  Pravastatin 80 mg PO QPM  
23.  PredniSONE 10 mg NG DAILY 
Start: After last tapered dose completes 
This is the maintenance dose to follow the last tapered dose 
24.  Saccharomyces boulardii 250 mg oral BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
==================
1. Fevers of Unknown Origin
2. RUE Catheter Associated DVT

SECONDARY DIAGNOSES:
===================
1. Chronic Hypoxic respiratory failure
2. Esophageal dysmotility
3. Normocytic Anemia
4. Chronic pain

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Ms. ___,

It was a privilege taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
===================================
- You were admitted to the hospital because you were found to 
have fevers at your rehab. 

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
==========================================
- There was a concern that you had pneumonia and you were 
continued on antibiotics. However your symptoms appeared to be 
unlikely from an infection and your antibiotics were stopped. 
- You had an ultrasound of your arm which showed blood clots. It 
is possible that these blood clots were causing your fevers. We 
discussed the risks and benefits of starting a blood thinner 
with your family, and we ultimately chose to start a blood 
thinner.
- You had low blood counts and needed a blood transfusion. Your 
blood counts improved.   

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================  
- Please continue to take all your medications and follow up 
with your doctors at your ___ appointments.  
- Your blood counts will need to be monitored closely in the 
setting of your new blood thinner. You will also need a repeat 
ultrasound of your arms in the future to look for interval 
change in the clots.

We wish you all the best!

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___